US06620811B2
A stirred suspension of 200 mg (0.45 mmol) 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide, 1.23 ml (8.90 mmol) 2-(2-methylaminoethyl)pyridine and 290 mg (0.89 mmol) cesium carbonate in a thick-walled glass pressure tube fitted with a teflon cap was heated at 140° C. for 24 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with dichloromethane, and the combined organic phases were washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (0/100-2.5/97.5 methanol/dichlormoethane) followed by trituration in ether afforded 160 mg (71%) N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-[methyl-(2-pyridin-2-yl-ethyl)-amino]-isonicotinamide as a light yellow crystalline solid. ES-MS m/e (%): 505 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 0.45 mmol, 200 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | 2-(2-methylaminoethyl)pyridine | 8.90 mmol, 1.23 ml | CNCCC1=NC=CC=C1 | C8H12N2
reactant | cesium carbonate | 0.89 mmol, 290 mg | C([O-])([O-])=O.[Cs+].[Cs+]
product | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-[methyl-(2-pyridin-2-yl-ethyl)-amino]-isonicotinamide | 160 mg, 71% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N(CCC2=NC=CC=C2)C)=O)N2CCOCC2 | C26H28N6O3S
